Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Topamax / Influenza Virus Vaccines / latex / 
nickel
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: laparoscopic cholecystectomy

 
History of Present Illness:
___ s/p lap sleeve gastrectomy ___ presenting with nausea, 
vomiting, abdominal pain. Patient was in her usual state of 
health until today, when at 2am she had nausea and vomiting, 
which continued x 4 before she presented to the ED. First 
episode was pink and the subsequent episodes were dark gray. 
This was accompanied by RUQ and midepigastric abdominal pain, 
which was worsened by the nausea. She has not had any more 
episodes of emesis since arrival in the ED. Had a normal BM 
yesterday at 10pm, no diarrhea, did not pass gas today but did 
yesterday. She had hard boiled eggs and side salad for dinner 
yesterday. No
fevers at home. No history of gallstone disease or biliary 
colic. No issues with sleeve since the surgery. Lost about 80 
lbs post-op. Has never had an EGD. Takes omeprazole for GERD, 
which controls her disease well.

WBC 11.2, LFTs wnl, CT showed no abnormalities, no signs of 
acute cholecystitis.

 
Past Medical History:
1)  gastroesophageal reflux
2)  hyperlipidemia
3)  history of migraine headaches
4)  vertigo
5)  history of skin cancer in remission since ___
6)  iron deficiency with saturation of 13%
7)  history of bronchitis 
8)  atypical nevi
9)  home sleep study ___ did not demonstrate obstructive 
    sleep apnea
10) h/o vitamin D deficiency

She was hospitalized at ___ in ___
___ for one night secondary to reaction to Topamax.

Her only surgical procedures are removal of a skin mole in
___ and a laparoscopic sleeve gastrectomy in ___

 
Social History:
___
Family History:
Her family history is noted for both parents living father age 
___ with heart disease, diabetes, hyperlipidemia, asthma, history 
of melanoma and obesity; mother age ___ with epilepsy and 
arthritis; paternal grandfather with type 2 diabetes and 
melanoma; paternal grandmother with type 2 diabetes and 
melanoma; paternal uncle with history of colon CA.

 
Physical Exam:
T 98.3 BP 119/81 P 63 RR ___ Ra  
GENERAL: no acute distress
CARDIAC: regular rate and rhythm, no murmurs appreciated
RESP: clear to auscultation, bilaterally
ABD: soft, appropriate ___ tenderness without 
rebound tenderness or guarding, abdominal lap sites with 
steri-strips, CDI
EXT: no lower extremity edema, bilaterally
 
Pertinent Results:
LABS:
___ 07:24AM BLOOD WBC-11.2* RBC-4.60 Hgb-14.0 Hct-42.6 
MCV-92 MCH-30.4 MCHC-33.2 RDW-12.3 RDWSD-40.8 Plt ___ 
Neuts-90.6* Lymphs-4.9* Monos-3.5* Eos-0.4* Baso-0.2 Im ___ 
AbsNeut-10.15* AbsLymp-0.55* AbsMono-0.39 AbsEos-0.04 
AbsBaso-0.02 ___ 10:14AM BLOOD Lactate-0.6

___ 05:25AM BLOOD ___ PTT-26.2 ___
Glucose-69* UreaN-5* Creat-0.5 Na-140 K-4.2 Cl-104 HCO3-24 
AnGap-12
ALT-8 AST-12 AlkPhos-65 TotBili-0.5

IMAGING:
CT ABD & PELVIS WITH CONTRAST: 
IMPRESSION: 
1. Status post sleeve gastrectomy without evidence of 
complication. 
2. No acute findings to account for reported symptoms. 
3. Trace left pleural effusion with minimal left basal 
atelectasis. 
  
LIVER OR GALLBLADDER US (SINGLE ORGAN):
Cholelithiasis without evidence of cholecystitis.

 
Brief Hospital Course:
Ms. ___ is a ___ s/p laparoscopic sleeve gastrectomy ___ 
who presented with abrupt onset nausea and vomiting.  An 
abdominal/pelvic CT scan was not revealing for acute 
intra-abdominal pathology, but a right upper quadrant ultrasound 
was significant for cholelithiasis.  Given her degree of pain 
and slight leukocytosis with left shift, the patient underwent a 
laparoscopic cholecystectomy on ___.  There were no adverse 
events in the operative; please see operative note for details, 
however, gallbladder edema was noted suggestive of early acute 
cholecystitis.

Post-operatively, the patient remained afebrile, hemodynamically 
stable and well controlled pain.  She tolerated a diet, 
ambulated and voided, therefore she was discharged to home and 
will follow-up in clinic with Dr. ___.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam 5 mg PO Q8H:PRN vertigo 
2. LORazepam 1 mg PO Q6H:PRN migraines 
3. Verapamil SR 240 mg PO Q24H 
4. levonorgestrel-ethinyl estrad 0.1-20 mg-mcg oral DAILY 
5. ferrous sulfate 134 mg (27 mg iron) oral DAILY 
6. Multivitamins 2 TAB PO DAILY 
7. melatonin 5 mg oral QHS 
8. Omeprazole 20 mg PO DAILY 
9. eletriptan 40 mg oral ASDIR 
10. Doxepin HCl 10 mg PO HS 
11. cyanocobalamin (vitamin B-12) 500 mcg oral DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
3.  Citalopram 20 mg PO DAILY  
4.  cyanocobalamin (vitamin B-12) 500 mcg oral DAILY  
5.  Doxepin HCl 10 mg PO HS  
6.  eletriptan 40 mg oral ASDIR  
7.  ferrous sulfate 134 mg (27 mg iron) oral DAILY  
8.  melatonin 5 mg oral QHS  
9.  Multivitamins 2 TAB PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Verapamil SR 240 mg PO Q24H  
12.  Vitamin D ___ UNIT PO DAILY  
13. HELD- Diazepam 5 mg PO Q8H:PRN vertigo  This medication was 
held. Do not restart Diazepam until you are no longer taking 
oxycodone.
14. HELD- levonorgestrel-ethinyl estrad 0.1-20 mg-mcg oral DAILY 
 This medication was held. Do not restart levonorgestrel-ethinyl 
estrad until two weeks after surgery.
15. HELD- LORazepam 1 mg PO Q6H:PRN migraines  This medication 
was held. Do not restart LORazepam until you are no longer 
taking oxycodone.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute cholecystis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You have undergone removal of your gallbladder, recovered in the 
hospital and are now preparing for discharge to home with the 
following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___